US08252825B2
Step C: 1-[({[(4R,5R)-4,5-bis(nitrooxy)hexyl]oxy}carbonyl)oxy]ethyl 2-butyl-4-chloro-1-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylate
A methanol (30 mL) suspension of 1-[({[(4R,5R)-4,5-bis(nitrooxy)hexyl]oxy}carbonyl)oxy]ethyl 2-butyl-4-chloro-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylate (1.63 g, 1.68 mmol) was heated to 70° C. for 2 hours. The reaction mixture was concentrated in vacuo, and the residue was purified by column chromatography on silica gel, eluting with 3-9% methanol/dichloromethane to give the title compound. 1H NMR (500 MHz, CD3CN) δ 7.71 (dd, J=0.9, 7.8 Hz, 1H), 7.64 (dt, J=1.2, 7.6 Hz, 1H), 7.54 (dt, J=1.1, 7.6 Hz, 1H), 7.51 (d, J=7.5 Hz, 1H), 7.10 (d, J=8.2 Hz, 2H), 6.98 (d, J=8.0 Hz, 2H), 6.81 (q, J=5.5 Hz, 1H), 5.53 (d, J=16.7 Hz, 1H), 5.48 (d, J=17.1 Hz, 1H), 5.25-5.35 (m, 2H), 4.11 (t, J=5.8 Hz, 2H) 2.60 (t, J=7.7 Hz, 2H), 1.70-1.84 (m, 4H), 1.58 (quintet, J=7.6 Hz, 2H), 1.49 (d, J=5.5 Hz, 3H), 1.35 (d, J=6.3 Hz, 3H), 1.31 (sextet, J=7.5 Hz, 2H), 0.85 (t, J=7.4 Hz, 3H); LC-MS: m/z 731.3 (M+H).

reactant | 1-[({[(4R,5R)-4,5-bis(nitrooxy)hexyl]oxy}carbonyl)oxy]ethyl 2-butyl-4-chloro-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylate | 1.68 mmol, 1.63 g | C(CCC)C=1N(C(=C(N1)Cl)C(=O)OC(C)OC(=O)OCCC[C@H]([C@@H](C)O[N+](=O)[O-])O[N+](=O)[O-])CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C50H49ClN8O11
solvent | methanol | 30 mL | CO | CH4O
product | 1-[({[(4R,5R)-4,5-bis(nitrooxy)hexyl]oxy}carbonyl)oxy]ethyl 2-butyl-4-chloro-1-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylate | C(CCC)C=1N(C(=C(N1)Cl)C(=O)OC(C)OC(=O)OCCC[C@H]([C@@H](C)O[N+](=O)[O-])O[N+](=O)[O-])CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C31H35ClN8O11
